US09340546B2
Pd on C, (10%, wet, Degussa) (140 mg, 0.1316 mmol) was added to a stirred solution of 4-(4-methylpiperazin-1-yl)-5-nitro-pyridin-2-amine (355 mg, 1.496 mmol) in a mixture of EtOAc (5 mL) and EtOH (50 mL). The reaction was placed under an atmosphere of hydrogen and stirred at ambient temperature for 16 hours. The catalyst was removed by filtration through a pad of celite and the filtrate concentrated in vacuo to give 4-(4-methylpiperazin-1-yl)pyridine-2,5-diamine as a brown solid (291 mg, 94% Yield). MS (ES+) 208.1.

reactant | 4-(4-methylpiperazin-1-yl)-5-nitro-pyridin-2-amine | 1.496 mmol, 355 mg | CN1CCN(CC1)C1=CC(=NC=C1[N+](=O)[O-])N | C10H15N5O2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd | [Pd] | Pd
product | 4-(4-methylpiperazin-1-yl)pyridine-2,5-diamine | 291 mg, 94% Yield | CN1CCN(CC1)C1=CC(=NC=C1N)N | C10H17N5
